US05468898
To 0.65 g (2.11 mmol) of 3-carbomethoxy-6-benzyloxy-1-naphthol in 20 ml of pyridine at 0° C. is added 0.43 ml (2.5 mmol, 1.2 eq) of trifluoromethanesulfonic anhydride which is then stirred for 18 hours at 25° C. The mixture is concentrated in vacuo and partitioned between ethyl acetate and 1N HCl. The organics are dried (MgSO4) and concentrated in vacuo. Purification by flash silica gel chromatography using 7% ethyl acetate in hexanes as an eluent affords 0.5 g of 1-trifluoromethylsulfonyloxy-3-carbomethoxy-6-benzyloxynaphthalene in the form of a clear oil which is used directly in the next step.

reactant | 3-carbomethoxy-6-benzyloxy-1-naphthol | 2.11 mmol, 0.65 g | C(=O)(OC)C=1C=C(C2=CC=C(C=C2C1)OCC1=CC=CC=C1)O | C19H16O4
reactant | trifluoromethanesulfonic anhydride | 2.5 mmol, 0.43 ml, 1.2 eq | FC(S(=O)(=O)OS(=O)(=O)C(F)(F)F)(F)F | C2F6O5S2
solvent | pyridine | 20 ml | N1=CC=CC=C1 | C5H5N
product | 1-trifluoromethylsulfonyloxy-3-carbomethoxy-6-benzyloxynaphthalene | 0.5 g | FC(S(=O)(=O)OC1=CC(=CC2=CC(=CC=C12)OCC1=CC=CC=C1)C(=O)OC)(F)F | C20H15F3O6S
